US06001839
A solution of boron tribromide (14.4 ml of a 1M solution in dichloromethane) was added dropwise to a stirred solution of 4-amino-7-isopropyl-5-(4-methoxyphenyl) pyrrolo[2,3-d]pyrimidine (1.35 g) in dichloromethane (100 ml) at -10° C. under nitrogen. The reaction mixture was allowed to warm to 0° C. and stirred at this temperature for one hour. Additional boron tribromide (9.6 ml of a 1M solution in dichloromethane) was added at -10° C. and the mixture was allowed to warm to 0° C. and stirred for a further hour. The reaction mixture was quenched by the dropwise addition of saturated sodium bicarbonate solution (50 ml). The mixture was allowed to stand overnight and the dichloromethane layer separated off. Insoluble material at the interface was removed by filtration and dried to yield 4-amino-5-(4-hydroxyphenyl)-7-isopropylpyrrolo-[2,3-d]pyrimidine. The structure was confirmed by 1H nmr.

reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | 4-amino-7-isopropyl-5-(4-methoxyphenyl) pyrrolo[2,3-d]pyrimidine | 1.35 g | NC=1C2=C(N=CN1)N(C=C2C2=CC=C(C=C2)OC)C(C)C | C16H18N4O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 4-amino-5-(4-hydroxyphenyl)-7-isopropylpyrrolo-[2,3-d]pyrimidine | NC=1C2=C(N=CN1)N(C=C2C2=CC=C(C=C2)O)C(C)C | C15H16N4O
